US08604147B2
1) Preparation of 5,8-dibromo-2,3-bis(phenyl)quinoxaline According to the Following Reaction Scheme
Preparation procedure: 3,6-dibromo-o-phenylene diamine (1.0 g, 3.7 mmol) is added to an acetic acid (20 mL) solution of benzil (0.39 g, 1.84 mmol) at 120° C. The resulting solution is mixed homogeneously and reflux for 12 hours. The reaction solution is poured into water, neutralized with sodium bicarbonate, extracted with chloroform, washed with saturated brine water, and dried over anhydrous sodium sulfate. The solvents are removed using a rotary evaporator. The crude product is subjected to column chromatography to give a white solid, which is then recrystallized in chloroform/n-hexane to afford a white solid powder (yield 86%), MALDI-TOF-MS (m/z): 440.1 (M+).

reactant | 3,6-dibromo-o-phenylene diamine | 3.7 mmol, 1.0 g | BrC=1C(=C(C(=CC1)Br)N)N | C6H6Br2N2
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
reactant | benzil | 1.84 mmol, 0.39 g | C1(=CC=CC=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H10O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 5,8-dibromo-2,3-bis(phenyl)quinoxaline | yield 86% | BrC1=C2N=C(C(=NC2=C(C=C1)Br)C1=CC=CC=C1)C1=CC=CC=C1 | C20H12Br2N2
